US07199243B2
2-Methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid methyl ester (4.07 g, 15.0 mmol) was dissolved in methanol (40 mL) and followed by the addition of 37% HCl (3.8 mL) and 10% Pt/C (0.41 g). The mixture was shaken with hydrogen under 50 psi at 50° C. in a Parr bottle for 2 h, filtered through a pad of Celite, and rinsed with methanol. After solvent removal, the residue was treated with saturated aqueous Na2CO3 (100 mL) and extracted with ethyl acetate (2×100 mL). The organic extract was washed with water, dried over sodium sulfate, and concentrated to give 3.70 g (89%) of 2-methyl-2-(3-piperidin-3-yl-phenoxy)-propionic acid methyl ester as a yellow oil: 1H NMR (CDCl3) δ 1.57 (br m, 1H), 1.60 (s, 6H), 1.78 (br, 1H), 1.86 (br, 1H), 1.97 (brd, 1H), 2.61 (m, 3H), 3.06–3.13 (m, 2H), 3.76 (s, 3H), 6.61 (dd, 1H), 6.70 (s, 1H), 6.83 (d, 1H), 7.14 (t, 1H); MS m/z (relative intensity) 277 (M+, 2), 218 (6), 176 (100).

reactant | 2-Methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid methyl ester | 15.0 mmol, 4.07 g | COC(C(C)(OC1=CC(=CC=C1)C=1C=NC=CC1)C)=O | C16H17NO3
reactant | HCl | 3.8 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
catalyst | Pt/C | 0.41 g | [Pt] | Pt
product | 2-methyl-2-(3-piperidin-3-yl-phenoxy)-propionic acid methyl ester | 3.70 g, 89% | COC(C(C)(OC1=CC(=CC=C1)C1CNCCC1)C)=O | C16H23NO3
